US09303007B2
(1R,3S,5R)-tert-Butyl 3-(5-(6-(4-(2-((1R,3S,5R)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-4-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate
A reaction mixture of (1R,5R)-benzyl 3-(5-(4-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (0.305 g, 0.416 mmol) and NaHCO2 (0.070 g, 0.832 mmol) in MeOH (15 mL) was charged with 10% Pd/C (0.022 g, 0.021 mmol). The resulting suspension was vacuum flushed with N2 (3×) and placed under 1 atm of H2 (balloon) for 3 h at room temperature. The mixture was then filtered though a pad of diatomaceous earth (CELITE®) and concentrated under vacuum. An off-white solid corresponding to (1R,3S,5R)-tert-butyl 3-(5-(6-(4-(2-((1R,5R)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (0.235 g) was recovered and used without further purification. LC-MS [M+H]+=599; Rt=1.96 min is product. Column Luna 3u C18 2×50 mm; start % B: 0, final % B: 100 Solvent A: 10% Acetonitrile/90% H2O+1% TFA; Solvent B: 90% Acetonitrile/10% H2O+1% TFA; flow rate 4 ml/min. Run time: 5 min. Purity=94%. 1H NMR (500 MHz, DMSO-d6) δ ppm 12.00 (2H, br. s.), 8.11-8.32 (3H, m), 7.88-8.02 (5H, m), 7.72-7.88 (9H, m), 7.63 (4H, br. s.), 4.64 (2H, br. s.), 4.42 (1H, t, J=7.93 Hz), 3.97-4.18 (1H, m), 3.45 (1H, br. s.), 3.17 (3H, s), 2.96 (1H, dd, J=13.43, 6.71 Hz), 2.08-2.43 (6H, m), 1.66 (2H, br. s.), 1.07-1.50 (20H, m), 0.81-0.89 (3H, m), 0.77 (1H, br. s.), 0.45-0.61 (3H, m), 0.30 (1H, br. s.).

reactant | (1R,5R)-benzyl 3-(5-(4-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.416 mmol, 0.305 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C=1NC(=CN1)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C1=CN=C(N1)C1N([C@@H]2C[C@@H]2C1)C(=O)OCC1=CC=CC=C1 | C45H44N6O4
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 0.021 mmol, 0.022 g | [Pd] | Pd
product | (1R,3S,5R)-tert-Butyl 3-(5-(6-(4-(2-((1R,3S,5R)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-4-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | [C@@H]12N[C@@H](C[C@H]2C1)C=1NC=C(N1)C1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C37H38N6O2
